US08017719B2
Preparation of a Mixture of Glycerol N-n-Octylcarbamate
354 g of methoxypropyl acetate, 237 g (2 moles) of glycerol carbonate (Jeffsol GC from Huntsman; CAS RN: 931-40-8; molecular weight: 118.09) are introduced in succession, under nitrogen, into a three-necked flask equipped with a condenser and an addition funnel. The mixture is stirred at 230 revolutions per minute and heated to 70° C. Then 262.5 g (2.03 moles) of n-octylamine (CAS RN: 11-86-4; molecular weight: 129.25) are added to the reaction mixture in the course of 15 minutes. The reaction is strongly exothermic and the temperature of the reaction mixture reaches approximately 88° C.

reactant | methoxypropyl acetate | 354 g | C(C)(=O)OCCCOC | C6H12O3
reactant | glycerol carbonate | 2 moles, 237 g | OCC1OC(OC1)=O | C4H6O4
reactant | n-octylamine | 2.03 moles, 262.5 g | C(CCCCCCC)N | C8H19N
product | Glycerol N-n-Octylcarbamate | OCC(O)CO.C(CCCCCCC)NC([O-])=O | InChI=1S/C9H19NO2.C3H8O3/c1-2-3-4-5-6-7-8-10-9(11)12;4-1-3(6)2-5/h10H,2-8H2,1H3,(H,11,12);3-6H,1-2H2/p-1
